US04405552
EXAMPLE 2: 5-(4-CHLOROPHENYL)-3-CYANO-2-(1H)-PYRIDONE
Sodium (7 grams in 300 ml methanol) was stirred while a methanolic solution of 2-cyanoacetamide (16 grams) and 2-(4-chlorophenyl)-3-(dimethylamino)acrolein (37 grams) was added. The mixture was refluxed for 1 hour and the resulting precipitate was filtered, washed with ethanol, dissolved in hot water, and then acidified. The resulting precipitate was filtered, washed with water, and identified as the desired product, m.p. 278°-280° C.

reactant | 2-cyanoacetamide | 16 grams | C(#N)CC(=O)N | C3H4N2O
reactant | 2-(4-chlorophenyl)-3-(dimethylamino)acrolein | 37 grams | ClC1=CC=C(C=C1)C(C=O)=CN(C)C | C11H12ClNO
solvent | Sodium | 300 ml, 7 grams | [Na] | Na
product | 5-(4-CHLOROPHENYL)-3-CYANO-2-(1H)-PYRIDONE | ClC1=CC=C(C=C1)C=1C=C(C(NC1)=O)C#N | C12H7ClN2O
